US05204333
To a stirred solution of diethyl cyclobutylmalonate (40 g, 0.19 mmol) in dry THF (100 ml) at 0° C. under nitrogen atmosphere was added carefully sodium hydride (4.8 g, 0.2 mmol). The stirred mixture was allowed to warm to room temperature and was then heated to reflux for 1 hour. To the cooled solution was added benzylchloromethyl ether (31.3 g, 0.2 mol) and the mixture was heated to reflux overnight. The cooled solution was partitioned between water and ether and the ether layer was separated, washed with water, dried over anhydrous magnesium sulphate and evaporated to leave diethyl 2-benzyloxymethyl-2-cyclobutylmalonate as an oil (71 g) which was not purified further.

reactant | diethyl cyclobutylmalonate | 0.19 mmol, 40 g | C1(CCC1)C(C(=O)OCC)C(=O)OCC | C11H18O4
reactant | sodium hydride | 0.2 mmol, 4.8 g | [H-].[Na+]
reactant | benzylchloromethyl ether | 0.2 mol, 31.3 g | C(C1=CC=CC=C1)C(Cl)OC(CC1=CC=CC=C1)Cl | C16H16Cl2O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
product | diethyl 2-benzyloxymethyl-2-cyclobutylmalonate | 71 g | C(C1=CC=CC=C1)OCC(C(=O)OCC)(C(=O)OCC)C1CCC1 | C19H26O5
